US09145419B2
1B. 6-Chloro-8-(4-methylpyridin-3-yl)-3-phenylimidazo[1,2-b]pyridazine
A microwave vial was charged with a mixture of 3-bromo-6-chloro-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine (64 mg, 0.198 mmol), phenylboronic acid (24.12 mg, 0.198 mmol), tetrakis(triphenylphosphine)palladium(0) (22.86 mg, 0.020 mmol), dioxane (4 mL), and K3PO4 (0.297 mL, 0.593 mmol) (2.0 M water solution) was stirred at room temperature for 5 min. under nitrogen. The resulting mixture was heated to 100° C. for 8 h in microwave. The reaction mixture was cooled to room temperature, quenched with water, and diluted with EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by prep. HPLC to give 38 mg (44.3%) of the product. LC/MS: Rt=2.36 min. LC/MS (Condition A): 321.09/323.10.

reactant | 3-bromo-6-chloro-8-(4-methylpyridin-3-yl)imidazo[1,2-b]pyridazine | 0.198 mmol, 64 mg | BrC1=CN=C2N1N=C(C=C2C=2C=NC=CC2C)Cl | C12H8BrClN4
reactant | phenylboronic acid | 0.198 mmol, 24.12 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 0.593 mmol, 2.0 M, 0.297 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.020 mmol, 22.86 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-8-(4-methylpyridin-3-yl)-3-phenylimidazo[1,2-b]pyridazine | 38 mg, 44.3% | ClC=1C=C(C=2N(N1)C(=CN2)C2=CC=CC=C2)C=2C=NC=CC2C | C18H13ClN4
